US07947738B2
(1-c) Tert-butyl(±)-[(1S,5R,6R)-6-(nitromethyl)bicyclo[3.2.0]hept-3-en-6-yl]acetate
Tert-butyl(±)-(1S,5R)bicyclo[3.2.0]hept-3-en-6-ylideneacetate (1.73 g, 8.39 mmol) was dissolved in nitromethane (10 mL). To the solution, 1,8-diazabicyclo[5.4.0]undec-7-ene (1.3 mL, 8.4 mmol) was added, and the mixture was stirred at room temperature for 1 hour and then heated with stirring at 50 to 60° C. for 5 hours. The mixture was allowed to cool and then diluted with 1 N hydrochloric acid and saturated saline, followed by extraction with ethyl acetate. Then, the organic layer was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to obtain the compound of interest as a colorless oil substance (1.98 g, 89%).

reactant | Tert-butyl(±)-(1S,5R)bicyclo[3.2.0]hept-3-en-6-ylideneacetate | 8.39 mmol, 1.73 g | [C@H]12CC=C[C@@H]2C(C1)=CC(=O)OC(C)(C)C | C13H18O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 8.4 mmol, 1.3 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | nitromethane | 10 mL | [N+](=O)([O-])C | CH3NO2
solvent | hydrochloric acid | 1 N | Cl | ClH
product | Tert-butyl(±)-[(1S,5R,6R)-6-(nitromethyl)bicyclo[3.2.0]hept-3-en-6-yl]acetate | [N+](=O)([O-])C[C@@]1([C@H]2C=CC[C@H]2C1)CC(=O)OC(C)(C)C | C14H21NO4
